US08222424B2
A solution of 0.227 g of 1-(4-bromo-phenyl)-4-phenyl-piperidine in tetrahydrofuran (5 mL) is cooled to −78° C. and treated with 2 portions of 0.29 mL each of tert-butyllithium (1.5 M in pentane). After 20 min at −78° C. the reaction mixture is treated with 0.1 g of 4-chloro-N-methoxy-N-methyl-3-sulfamoyl-benzamide in tetrahydrofuran (5 mL) and stirred for another 1.5 h. The temperature is then increased slowly to 0° C. and after completion the reaction is quenched by addition of 2 mL of saturated aqueous ammonium chloride and extracted with diethyl ether. The organics are washed with water, dried over magnesium sulfate, concentrated to 0.27 g of crude product which is purified by silica gel chromatography (1:1 hexanes/ethyl acetate) to give 2-chloro-5-[4-(4-phenyl-piperidin-1-yl)-benzoyl]-benzenesulfonamide as a powder. MS (m/z): (M−1) 453; Rf 0.65 (1:1 hexanes/ethyl acetate)

reactant | 1-(4-bromo-phenyl)-4-phenyl-piperidine | 0.227 g | BrC1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1 | C17H18BrN
reactant | tert-butyllithium | 1.5 M, 0.29 mL | C(C)(C)(C)[Li]
reactant | 4-chloro-N-methoxy-N-methyl-3-sulfamoyl-benzamide | 0.1 g | ClC1=C(C=C(C(=O)N(C)OC)C=C1)S(N)(=O)=O | C9H11ClN2O4S
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-chloro-5-[4-(4-phenyl-piperidin-1-yl)-benzoyl]-benzenesulfonamide | ClC1=C(C=C(C=C1)C(C1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1)=O)S(=O)(=O)N | C24H23ClN2O3S
